US06063782
39 ml (0.43 mole) of phosphorus oxychloride were added to 3.53 g (0.0163 mole) of 1-(2-butenyl)-2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one (cis/trans=24/76) and the mixture was stirred at 97° C. for 2.5 hours. The reaction mixture was allowed to cool to room temperature and added dropwise to water with ice-cooling. The mixture was neutralized with a 40% aqueous solution of sodium hydroxide and extracted with dichloromethane. The extract was washed with water and dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was purified by column chromatography through silica gel using a 1:1 mixture of toluene and ethyl acetate as an eluent to give 3.59 g (0.0152 mole) of 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=21/79) as pale brown crystals.

reactant | phosphorus oxychloride | 0.43 mole, 39 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(2-butenyl)-2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one | 0.0163 mole, 3.53 g | C(C=CC)N1C(=C(C2=C1C(NN=C2)=O)C)C | C12H15N3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.0152 mole, 3.59 g | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
